US07323455B2
tert-Butyl-2-cyano-5-[5-(2-furyl)-5-methyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-1-carboxylate was prepared from tert-butyl-2-[5-(2-furyl)-5-methyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-1-carboxylate and chlorosulfonyl isocyanate generally according to the cyanation procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.17 (s, 1H), 7.71 (d, J=1.46 Hz, 1H), 7.34 (dd, J=1.93, 8.34, Hz, 1H), 7.28 (d, J=3.79 Hz, 1H), 7.21 (d, J=8.42 Hz, 1H), 7.16 (d, J=1.94 Hz, 1H), 6.44-6.41 (m, 2H), 6.24 (d, J=3.18 Hz, 1H), 4.13 (d, J=16.14 Hz, 1H), 4.01 (d, J=16.11 Hz, 1H), 1.89 (s, 3H), 1.38 (s, 9H); MS (ES) m/z 434 ([M+H]+, 100%)

reactant | tert-butyl-2-[5-(2-furyl)-5-methyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-1-carboxylate | C(C)(C)(C)OC(=O)N1C(=CC=C1)C=1C=CC2=C(C(OCC(N2)=O)(C)C=2OC=CC2)C1 | C23H24N2O5
reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
product | tert-Butyl-2-cyano-5-[5-(2-furyl)-5-methyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl]-1H-pyrrole-1-carboxylate | C(C)(C)(C)OC(=O)N1C(=CC=C1C=1C=CC2=C(C(OCC(N2)=O)(C)C=2OC=CC2)C1)C#N | C24H23N3O5
